US08809397B2
To a solution of N-(4,7,7-trimethylspiro[bicyclo[2.2.1]heptane-2,1′-cyclobutan]-3-yl)formamide (1.50 g, 6.78 mmol) in THF (40 mL) at 0° C. was slowly added lithium aluminum hydride (27.1 mmol, 27.1 mL of 1.0 M solution in THF). After complete addition, the reaction was refluxed for 48 h. The reaction mixture was cooled to 0° C. and quenched by addition, in portions, of solid sodium sulfate decahydrate (10 g). After stirring for 1 h, this mixture was filtered, and the filtrate was concentrated. The residue was purified on a 40 g silica gel column, using 0-100% CMA (chloroform:methanol:30% aqueous ammonia; 9:1:0.1) in chloroform as the eluent, to obtain an exo amine product, (1S,3R,4R)—N,4,7,7-tetramethylspiro[bicyclo[2.2.1]heptane-2.1′-cyclobutan]-3-amine (0.49 g; 35% yield), and an endo-amine product, (1S,3S,4R)—N,4,7,7-tetramethylspiro[bicyclo[2.2.1]heptane-2,1′-cyclobutan]-3-amine (0.30 g; 21% yield), both as oils. The two products were converted to their hydrochloride salts by dissolving each in 1 mL of concentrated hydrochloric acid and concentrating and vacuum drying the samples. 1H NMR of exo-(1S,3R,4R)—N,4,7,7-tetramethylspiro[bicyclo[2.2.1]heptane-2,1′-cyclobutan]-3-amine hydrochloride (D2O 400 MHz): δ 2.80 (s, 3H), 2.72 (brs, 1H), 2.22-1.91 (m, 4H), 1.84-1.72 (m, 3H), 1.54-1.45 (m, 2H), 1.38-1.31 (m, 1H), 1.10-1.01 (m, 1H), 0.87 (s, 3H), 075 (s, 3H), 0.72 (s. 3H); LCMS (m/z): 208 (M+1). 1H NMR of endo-(1S,3S,4R)—N4,7,7-tetramethylspiro[bicyclo[2.2.1]heptane-2,1′-cyclobutan]-3-amine hydrochloride (D2O, 400 MHz); δ 3.12 (brs, 1H), 2.79 (s, 3H), 2.26-2.16 (m, 1H), 2.01-1.85 (m, 3H), 1.78-1.69 (m, 3H), 1.60-1.51 (m, 1H), 1.36-1.24 (m, 2H), 1.08-1.00 (m, 1H), 0.85 (s, 3H), 0.78 (s, 3H) 0.75 (s, 3H); LCMS (m/z): 208 (M+1).

reactant | N-(4,7,7-trimethylspiro[bicyclo[2.2.1]heptane-2,1′-cyclobutan]-3-yl)formamide | 6.78 mmol, 1.50 g | CC12C(C3(CCC3)C(CC1)C2(C)C)NC=O | C14H23NO
reactant | lithium aluminum hydride | 27.1 mmol, 1.0 M, 27.1 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (1S,3R,4R)—N,4,7,7-tetramethylspiro[bicyclo[2.2.1]heptane-2.1′-cyclobutan]-3-amine | 0.49 g, 35% yield | CN[C@H]1[C@@]2(CC[C@@H](C2(C)C)C12CCC2)C | C14H25N
